US04172204
To 1 gram of 1-(2',6'-dichlorophenyl)-2-(2',3'-bis-methoxycarbonylguanidino) ethanol dissolved in 20 ml of methylene chloride was added dropwise with cooling at 0° C. 0.35 g of thionyl chloride. At the conclusion of the addition period, the solution was stirred for an additional 60 minutes at room temperature. After the addition of 20 ml of methyl alcohol, a solution of 0.5 g of sodium hydroxide in 2 ml of water was added and the resulting mixture refluxed for 60 minutes. The reaction solution was evaporated to low volume under vacuum and 50 ml of water added. The precipitated solid was collected, washed with methanol, followed by water and dried. 4,5-Dihydro-2-methoxycarbonylamino-5-(2',6'-dichlorophenyl)imidazole was isolated, 0.3 g, m.p. 229-230 (dec.).

reactant | 1-(2',6'-dichlorophenyl)-2-(2',3'-bis-methoxycarbonylguanidino) ethanol | 1 gram | ClC1=C(C(=CC=C1)Cl)C(CNC(=NC(=O)OC)NC(=O)OC)O | C13H15Cl2N3O5
reactant | thionyl chloride | 0.35 g | S(=O)(Cl)Cl | Cl2OS
reactant | methyl alcohol | 20 ml | CO | CH4O
reactant | sodium hydroxide | 0.5 g | [OH-].[Na+]
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | water | 2 ml | O | H2O
product | 4,5-Dihydro-2-methoxycarbonylamino-5-(2',6'-dichlorophenyl)imidazole | COC(=O)NC=1NC(CN1)C1=C(C=CC=C1Cl)Cl | C11H11Cl2N3O2
